US04021539
N-(β-hydroxyethyl)-glucamine
The product was made from D-glucose and monoethanolamine comparable as in Example A. A viscous, syrupy substance was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | monoethanolamine | C(O)CN | C2H7NO
product | N-(β-hydroxyethyl)-glucamine | OCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C8H19NO6
